US07183320B2
N-[2,4-dichlorobenzoyl]phenylsulfonamide
To a mixture of phenylsulfonamide (0.16 mol; 25.12 g) and potassium carbonate (0.2 mol; 27.6 g) in 500 mL dioxane is added dropwise 2,4-dichlorobenzoyl chloride (0.13 mole; 18.0 mL). The mixture is warmed to reflux under nitrogen for 16 hr. The reaction is then diluted with water (500 mL), neutralized to pH 5 with concentrated hydrochloric acid, and extracted 3 times with ethyl acetate. The combined ethyl acetate layers are washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure to a white solid. The solid residue is subjected to silica gel chromatography, eluting with dichloromethane containing from 0–5% methanol. Fractions containing the product are combined and concentrated under reduced pressure to provide the title compound.

reactant | phenylsulfonamide | 0.16 mol, 25.12 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | potassium carbonate | 0.2 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dichlorobenzoyl chloride | 0.13 mole, 18.0 mL | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
solvent | water | 500 mL | O | H2O
product | N-[2,4-dichlorobenzoyl]phenylsulfonamide | ClC1=C(C(=O)NS(=O)(=O)C2=CC=CC=C2)C=CC(=C1)Cl | C13H9Cl2NO3S
